US09303000B2
Synthesis of (Z)-2-(2-(3-(3-chlorophenyl)-1H-1,2,4-triazol-1-yl)vinyl)-1,3,4-oxadiazole (I-26)
In a 3-neck 25 mL round-bottomed flask, (Z)-3-(3-(3-chlorophenyl)-1H-1,2,4-triazol-1-yl)acrylohydrazide (0.180 g, 1.0 eq.), triethyl orthoformate (0.2006 g, 1.9 eq.) and Methane sulphonic acid (0.009 g, 0.1 eq.) was mixed. Reaction was carried out under N2 atmosphere. Reaction mixture was refluxed at 80° C. for 1 h. Completion of the reaction was monitored on TLC using ethyl acetate:n-hexane (1:1) as mobile phase. The resulting reaction mass was poured in ice-water slurry (50 mL) and extracted with ethylacetate (3×20 mL). Organic layer was washed with brine solution followed by drying using anhydrous sodium sulphate. Organic layer was concentrated under reduced pressure to afford 0.150 g of crude compound which was further purified using column chromatography to afford 0.045 g pure compound (Yield 24.2%): 1H NMR (400 MHz, CDCl3) δ 10.21 (S, 1H), 8.5 (S, 1H), 8.18 (S, 1H), 8.05-8.06 (t, 1H), 7.50-7.53 (d, J=10.8 Hz, 1H), 7.40-7.43 (t, 1H), 6.25-6.27 (d, J=11.2 Hz, 1H): LCMS for C12H8ClN5O [M+1]+ 273.68 found 273.80 at 3.336 min.

reactant | (Z)-3-(3-(3-chlorophenyl)-1H-1,2,4-triazol-1-yl)acrylohydrazide | 0.180 g, 1.0 eq. | ClC=1C=C(C=CC1)C1=NN(C=N1)\C=C/C(=O)NN | C11H10ClN5O
reactant | triethyl orthoformate | 0.2006 g, 1.9 eq. | C(OCC)(OCC)OCC | C7H16O3
reactant | Methane sulphonic acid | 0.009 g, 0.1 eq. | CS(=O)(=O)O | CH4O3S
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
product | (Z)-2-(2-(3-(3-chlorophenyl)-1H-1,2,4-triazol-1-yl)vinyl)-1,3,4-oxadiazole | 0.045 g, Yield 24.2% | ClC=1C=C(C=CC1)C1=NN(C=N1)\C=C/C=1OC=NN1 | C12H8ClN5O
